US08536165B2
B. 5-Methyl-2-(6-morpholinopyridin-3-ylamino)benzoic acid
A solution of 5-methyl-2-(6-morpholinopyridin-3-ylamino)benzoate tert-butyl ester in TFA (0.6 ml, 7.58 mmol) was stirred at room temperature for 1 hour. The solvent was evaporated and the residue was triturated in diethyl ether. The solid formed was filtered off to afford 0.047 g (73% of yield) of the expected product.

reactant | 5-methyl-2-(6-morpholinopyridin-3-ylamino)benzoate tert-butyl ester | C(C)(C)(C)OC(C1=C(C=CC(=C1)C)NC=1C=NC(=CC1)N1CCOCC1)=O | C21H27N3O3
reactant | TFA | 7.58 mmol, 0.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Methyl-2-(6-morpholinopyridin-3-ylamino)benzoic acid | CC=1C=CC(=C(C(=O)O)C1)NC=1C=NC(=CC1)N1CCOCC1 | C17H19N3O3
